US08895553B2
Synthesis of 1-bromo-2,3-dichloro-5-methoxybenzene (Compound 2)
1-Bromo-2,3-dichloro-5-fluorobenzene (5.1453 g, 21.10 mmol) was dissolved in THF (25 mL) at room temperature and cooled to 0° C. Then, 5.1 g of sodium hydride (60%, 128 mmol) was added and 2.0 mL of methanol was added slowly. Additional THF (5 mL) was added. The mixture was stirred at room temperature for 10 minutes, then heated at 75° C. for four hours and cooled to room temperature. The mixture was poured into ice with some aq. sat. NH4Cl solution and extracted with EtOAc (3×100 mL). The organic solution was washed with brine, dried over Na2SO4, concentrated to dryness. The residue was purified with flash column chromatography on silica gel using hexane as solvent to afford the product (4.6727 g) as a white solid in 87% yield. 1H-NMR (CDCl3): δ 7.109 (d, J=3.0 Hz, 1H), 6.988 (d, J=3.0 Hz, 1H), 3.786 (s, 3H). The product was also synthesized from 1-bromo-2,3-dichloro-5-fluorobenzene and sodium methoxide in THF. The final product was purified by recrystallization from hexane.

reactant | 1-bromo-2,3-dichloro-5-fluorobenzene | BrC1=C(C(=CC(=C1)F)Cl)Cl | C6H2BrCl2F
reactant | sodium methoxide | C[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-bromo-2,3-dichloro-5-methoxybenzene | BrC1=C(C(=CC(=C1)OC)Cl)Cl | C7H5BrCl2O
